US09023846B2
4-Chloro-5-(2-fluoro-1,1-dimethyl-ethyl)-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester (738 mg, 2.81 mmol, prepared as described in the previous step) was dissolved in MeOH (3 mL) and 2 M NaOH (1.83 mL, 3.65 mmol) was added. The resulting mixture was stirred at room temperature for 18 h and then the solvent was removed under reduced pressure. The resulting residue was dissolved in H2O (10 mL) and then acidified to pH˜2 with concentrated HCl. The product oiled out of solution and solidified on standing. The solid was isolated by filtration, washed with H2O (2×20 mL), and dried under high vacuum to yield 4-Chloro-5-(2-fluoro-1,1-dimethyl-ethyl)-2-methyl-2H-pyrazole-3-carboxylic acid. 1H-NMR (400 MHz, DMSO-d6) δ: 13.89 (br. s., 1H), 4.56 (d, J=48 Hz, 2H), 4.00 (s, 3H), 1.35 (d, J=1.2 Hz, 6H).

reactant | 4-Chloro-5-(2-fluoro-1,1-dimethyl-ethyl)-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1Cl)C(CF)(C)C)C | C11H16ClFN2O2
reactant | NaOH | 3.65 mmol, 2 M, 1.83 mL | [OH-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
product | 4-Chloro-5-(2-fluoro-1,1-dimethyl-ethyl)-2-methyl-2H-pyrazole-3-carboxylic acid | ClC1=C(N(N=C1C(CF)(C)C)C)C(=O)O | C9H12ClFN2O2
